US05290939
In the course of 1.5 hours, at 5°, 13 g of bromine are added dropwise to a solution of 35 g of [(2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride in 700 ml of methanol. The solution is concentrated in vacuo at 20° to 110 ml, 220 ml of ethyl acetate are added thereto in the course of 2 hours, the resulting yellow suspension is stirred for 2 hours at 0°, and the slightly yellow crystals are filtered off with suction and recrystallised from methanol. A mixture of colourless crystals (m.p.: 210°) which according to AgNO3 titre comprises 22.4 percent by weight [(3-bromo-2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride and 77.6 percent by weight [(3-bromo-2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium bromide is obtained; yield 76% of the theoretical yield.

reactant | bromine | 13 g | BrBr | Br2
reactant | [(2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride | 35 g | [Cl-].OC1=C(C=C(C=C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 700 ml | CO | CH4O
product | [(3-bromo-2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium bromide | yield 76% | [Br-].BrC=1C(=C(C=C(C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C26H22BrO2P.BrH/c1-29-21-17-20(26(28)25(27)18-21)19-30(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;/h2-18H,19H2,1H3;1H
